US07576094B2
Step 6: 5-Ethyl-4-(methoxyamino)-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol
5-Ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one O-methyloxime was dissolved in 10 mL of THF. To this solution at 0° C. was added BH3/pyrine complex (2.27 mL). Subsequently, a solution of 9 mL of HCl in dioxane (4.0 M) was added over a period of 1 hour. The reaction mixture was allowed to stir overnight. The mixture was extracted with ethyl acetate and washed with saturated NaHCO3. After evaporation of the solvents, the residue was purified by flash chromatography eluted with 5-8% ethyl acetate in hexane to give 136.4 mg of the product 5-ethyl-4-(methoxyamino)-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol. 1H-NMR (300 MHz, CDCl3) δ=4.40 (b, 1H), 4.30 (m; 1H), 3.66 (s, 3H), 2.19 (s, 3H), 2.17 (s, 3H), 2.70-1.60 (m, 6H), 1.25 (t, 3H) ppm. 13C-NMR (75 MHz, CDCl3) δ=146.3, 145.2, 126.1, 124.1, 123.4, 114.1, 76.8, 61.8, 52.4, 36.0, 35.0, 32.9, 19.2, 14.9, 13.9, 13.4, 12.4 ppm. MS: (m/z)=245.1 (M−NH2OMe+).

reactant | 5-Ethyl-6-hydroxy-7,8-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one O-methyloxime | CON=C1CC2(CCC2)OC2=C(C(=C(C(=C12)CC)O)C)C | C17H23NO3
reactant | HCl | 9 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | 4.0 M | O1CCOCC1 | C4H8O2
product | 5-Ethyl-4-(methoxyamino)-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 136.4 mg | C(C)C1=C2C(CC3(CCC3)OC2=C(C(=C1O)C)C)NOC | C17H25NO3
